US08133882B2
146 mg of methyl[7-(cyclohexylamino)-1-cyclopentyl-6-fluoro-4-oxo-1,4-dihydroquinolin-3-yl](hydroxy)acetate was dissolved in 10 ml of THF, and 46 mg of 60% sodium hydride was added under ice-cooling, followed by stirring at room temperature for 30 minutes. Then, 58 μl of ethyl bromoacetate was added to the reaction mixture, followed by stirring at room temperature for 5 hours. 46 mg of 60% sodium hydride and 10 ml of THF were further added under ice-cooling, followed by stirring at room temperature for 2 hours. Then, 58 μl of ethyl bromoacetate was added thereto, followed by stirring at room temperature for 17 hours. Aqueous saturated sodium hydrogen carbonate was added to the reaction mixture, followed by extraction with ethyl acetate. Then, the organic layer was washed with aqueous saturated sodium chloride. After drying over anhydrous sodium sulfate, concentration was carried out under a reduced pressure. The resulting residue was purified by silica gel column chromatography to obtain 66 mg of methyl[7-(cyclohexylamino)-1-cyclopentyl-6-fluoro-4-oxo-1,4-dihydroquinolin-3-yl](2-ethoxy-2-oxoethoxy)acetate.

reactant | methyl[7-(cyclohexylamino)-1-cyclopentyl-6-fluoro-4-oxo-1,4-dihydroquinolin-3-yl](hydroxy)acetate | 146 mg | COC(C(O)C1=CN(C2=CC(=C(C=C2C1=O)F)NC1CCCCC1)C1CCCC1)=O | C23H29FN2O4
reactant | sodium hydride | 46 mg | [H-].[Na+]
reactant | ethyl bromoacetate | 58 μl | BrCC(=O)OCC | C4H7BrO2
reactant | sodium hydride | 46 mg | [H-].[Na+]
reactant | ethyl bromoacetate | 58 μl | BrCC(=O)OCC | C4H7BrO2
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | methyl[7-(cyclohexylamino)-1-cyclopentyl-6-fluoro-4-oxo-1,4-dihydroquinolin-3-yl](2-ethoxy-2-oxoethoxy)acetate | 66 mg | COC(C(OCC(=O)OCC)C1=CN(C2=CC(=C(C=C2C1=O)F)NC1CCCCC1)C1CCCC1)=O | C27H35FN2O6
